### PR TITLE
feat: unconditional lemmas for HashMap/TreeMap.getElem?_insertMany_list

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds unconditional lemmas for `HashMap.getElem?_insertMany_list`, alongside the existing ones that have quite strong preconditions. Also for TreeMap (and dependent/extensional variants).

### CODE REVIEW

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 1]
```diff
@@ -2341,6 +2341,25 @@ theorem get?_insertMany!_list_of_mem [TransOrd α] (h : t.WF)
     get? (insertMany! t l).1 k' = some v := by
   simpa only [insertMany_eq_insertMany!] using get?_insertMany_list_of_mem h
 
+theorem get?_insertMany_list [TransOrd α] [BEq α] [LawfulBEqOrd α] (h : t.WF)
+    {l : List (α × β)} {k : α} :
+    get? (insertMany t l h.balanced).1 k =
+      (l.findSomeRev? (fun ⟨a, b⟩ => if a == k then some b else none)).or (get? t k) := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:2347]: I think this should be stated in terms of `compare` rather than `==`.

**Comment by kim-em** [comment]
There are still many missing lemmas here:

* Parallel to `Std.DHashMap.Const.get?_insertMany_list`, the variants for `get`, `getD`, and `get!`.
* Parallel to `Std.DHashMap.Raw.Const.get?_insertMany_list`, the variants for `get`, `getD`, and `get!`.
* Parallel to `Std.ExtDHashMap.Const.get?_insertMany_list.`, the variants for `get`, `getD`, and `get!`.

* Parallel to `Std.HashMap.getElem?_insertMany_list`, the variants for `getElem`, `getD`, and `getElem!`.
* Parallel to `Std.HashMap.Raw.getElem?_insertMany_list`, the variants for `getElem`, `getD`, and `getElem!`.
* Parallel to `Std.ExtHashMap.getElem?_insertMany_list`, the variants for `getElem`, `getD`, and `getElem!`.

* Parallel to `Std.DTreeMap.Const.get?_insertMany_list`, the variants for `get`, `getD`, and `get!`.
* Parallel to `Std.TreeMap.getElem?_insertMany_list` the variants for `getElem`, `getD`, and `getElem!`.

Noting that 
  * `Std.DTreeMap.Raw.Const.get?_insertMany_list`
  * `Std.TreeMap.Raw.getElem?_insertMany_list`
already have these other variants (in this PR).
  
* Parallel to all of the above, the variants for `getKey?`, `getKey`, `getKeyD`, and `getKey!`.
